US09382197B2
To a 2-dram vial was added triethylamine (0.10 mL, 0.72 mmol), HATU (0.068 g, 0.18 mmol), benzofuran-2-carboxylic acid (0.029 g, 0.18 mmol), and DCM (2 mL). The solution was stirred at rt for 30 min then transferred to another 2-dram vial containing solid tert-butyl-4-[(1R)-1-aminoethyl]benzoate hydrochloride. The mixture was stirred at rt for 16 h. To the reaction was then added DCM (3 mL) and water (1 mL). After separation, the aqueous layer was extracted with DCM (2×3 mL). The combined organic phases were concentrated to dryness to give crude tert-butyl 4-{(1R)-1-[(1-benzofuran-2-ylcarbonyl)amino]ethyl}benzoate as a brown solid. LC-MS: (FA) ES+ 366.

reactant | triethylamine | 0.72 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.18 mmol, 0.068 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | benzofuran-2-carboxylic acid | 0.18 mmol, 0.029 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | tert-butyl-4-[(1R)-1-aminoethyl]benzoate hydrochloride | Cl.C(C)(C)(C)OC(C1=CC=C(C=C1)[C@@H](C)N)=O
solvent | water | 1 mL | O | H2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{(1R)-1-[(1-benzofuran-2-ylcarbonyl)amino]ethyl}benzoate | O1C(=CC2=C1C=CC=C2)C(=O)N[C@H](C)C2=CC=C(C(=O)OC(C)(C)C)C=C2 | C22H23NO4
